US07435751B2
Step 3: Preparation of (R)-3-(7-fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-ylamino)-2-hydroxy-propionic acid methyl ester
5-Amino-7-fluoro-1-propyl-1,3-dihydro-indol-2-one (0.300 g, 1.44 mmol), methyl (2R)-glycidate (0.147 g, 1.44 mmol) and lithium trifluoromethanesulfonate (0.220 g, 1.44 mmol) in acetonitrile (5 ml) are heated at 90° C. for 8 hours. The reaction is diluted with ethyl acetate, washed with water and brine, dried (Na2SO4) and evaporated. The residue is purified by PTLC (5% methanol/dichloromethane) to give the title compound as a yellow solid. HPLC r.t. 4.03 min; MS for C15H19FN2O4 m/z 311.2 (M+H)+.

reactant | 5-Amino-7-fluoro-1-propyl-1,3-dihydro-indol-2-one | 1.44 mmol, 0.300 g | NC=1C=C2CC(N(C2=C(C1)F)CCC)=O | C11H13FN2O
reactant | methyl (2R)-glycidate | 1.44 mmol, 0.147 g | COC(=O)[C@H]1CO1 | C4H6O3
reactant | lithium trifluoromethanesulfonate | 1.44 mmol, 0.220 g | FC(S(=O)(=O)[O-])(F)F.[Li+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-(7-fluoro-2-oxo-1-propyl-2,3-dihydro-1H-indol-5-ylamino)-2-hydroxy-propionic acid methyl ester | COC([C@@H](CNC=1C=C2CC(N(C2=C(C1)F)CCC)=O)O)=O | C15H19FN2O4
